US07612099B2
N-(2-{2-[(2-Hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-phenyl-methyl]-5-methyl-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and N-[2-(5-methyl-1H-indol-3-yl)-ethyl]-acetamide (Lit. 7) to give the title compound as orange solid. MS: 479.0 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(5-methyl-1H-indol-3-yl)-ethyl]-acetamide | CC=1C=C2C(=CNC2=CC1)CCNC(C)=O | C13H16N2O
product | N-(2-{2-[(2-Hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-phenyl-methyl]-5-methyl-1H-indol-3-yl}-ethyl)-acetamide | OC1=C(C(CC1C1=CC=CC=C1)=O)C(C=1NC2=CC=C(C=C2C1CCNC(C)=O)C)C1=CC=CC=C1 | C31H30N2O3
